US05302593
c) Preparation of 5-morpholinylpentylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 5-morpholinylpentylphthalimide (242 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 5-morpholinylpentylphthalimide | 0.8 mmoles, 242 mg | N1(CCOCC1)CCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C17H22N2O3
solvent | methanol | 5 ml | CO | CH4O
product | 5-morpholinylpentylamine | N1(CCOCC1)CCCCCN | C9H20N2O
